US05710166
Ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminobenzoyl]amino]3-pyridine-propanoate
3-[4-cyanobenzyl]aminobenzoic acid (0.5 g; 2 mmoles), ethyl β-amino-β-(3-pyridyl)-propanoate dihydrochloride (0.46 g; 1.7 mmoles), diisopropylethylamine (0.52 g; 4 mmoles) and benzotriazol-1-yl-oxy-tris(dimethylamino)phosphonium hexafluorophosphate (0.88 g; 2 mmoles) were stirred in N,N-dimethylformamide (25 ml) at room temperature for 1 hr. The reaction mixture was taken down to dryness and the residue was redissolved in ethanol (30 ml). The solution was saturated with HCl gas and allowed to stir overnight. The mixture was taken down to dryness and the residue was redissolved in ethanol (20 ml). To this solution, ammonium chloride (1 g) and ammonium hydroxide (10 ml) were added. The reaction mixture was stirred at room temperature for 4 hrs. and the solvent was removed under reduced pressure. The residue was purified by HPLC using acetonitrile/water/trifluoroacetic acid system. The desired fractions were collected and lyophilized to give 530 mg of white material. FAB-MS: MH+ =446.3.

reactant | 3-[4-cyanobenzyl]aminobenzoic acid | 2 mmoles, 0.5 g | C(#N)C1=CC=C(CNC=2C=C(C(=O)O)C=CC2)C=C1 | C15H12N2O2
reactant | ethyl β-amino-β-(3-pyridyl)-propanoate dihydrochloride | 1.7 mmoles, 0.46 g | Cl.Cl.NC(CC(=O)OCC)C=1C=NC=CC1
reactant | diisopropylethylamine | 4 mmoles, 0.52 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzotriazol-1-yl-oxy-tris(dimethylamino)phosphonium hexafluorophosphate | 2 mmoles, 0.88 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | HCl | Cl | ClH
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminobenzoyl]amino]3-pyridine-propanoate | 530 mg | NN=CC1=CC=C(CNC=2C=C(C(=O)NC(CC(=O)OCC)C=3C=NC=CC3)C=CC2)C=C1 | C25H27N5O3
